US07855216B2
Step 2: 3-Amino-1-(4-methoxy-benzyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester
A cooled (0° C.) solution of 4-(4-methoxybenzylamino)-3-cyanopyridine (800 mg, 3.34 mmol) and methyl bromoacetate (0.37 mL, 4.02 mmol) in DMF was treated with sodium hydride (60% w/w in oil, 161 mg, 4.02 mmol) portionwise over 15 minutes. The mixture was allowed to warm to ambient temperature and stirred for 15 hours. The reaction was quenched by the addition of saturated ammonium chloride solution (10 mL) and the solvent evaporated. The resultant residue was partitioned between EtOAc (100 mL), water (50 mL) and saturated NaHCO3 solution (5 mL). The organic phase was dried (Na2SO4), filtered and evaporated to give a brown oil. The oil was purified by flash column chromatography (Si-PPC, DCM:MeOH, gradient 100:0 to 85:15) to provide the title compound as an off white solid (401 mg, 39%). LCMS (method B): RT=1.33 min, M+H+=312.

reactant | 4-(4-methoxybenzylamino)-3-cyanopyridine | 3.34 mmol, 800 mg | COC1=CC=C(CNC2=C(C=NC=C2)C#N)C=C1 | C14H13N3O
reactant | methyl bromoacetate | 4.02 mmol, 0.37 mL | BrCC(=O)OC | C3H5BrO2
reactant | sodium hydride | 4.02 mmol, 161 mg | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Amino-1-(4-methoxy-benzyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester | COC(=O)C1=C(C=2C=NC=CC2N1CC1=CC=C(C=C1)OC)N | C17H17N3O3
